US08202866B2
2-(5-Bromo-pyridin-2-yl)-5-chloro-pentanoic acid
To a solution of 2-(5-Bromo-pyridin-2-yl)-5-chloro-pentanoic acid methyl ester (2.0 g, 6.5 mmol) in THF/MeOH (5/1) 30 mL, LiOH.H2O (1.092 g, 26 mmol.) was added. After the solution was stirred at room temperature for 16 h, the solution was neutralized with 2N HCl to pH 5-6. The mixture was evaporated to dryness under reduced pressure, then EtOAc (50 mL) was added. The organic layer was washed with brine, dried with Na2SO4, filtered, and evaporated to obtain of an oil product without further purification. MS: calc'd 291 (MH+), exp 291 (MH+).

reactant | 2-(5-Bromo-pyridin-2-yl)-5-chloro-pentanoic acid methyl ester | 6.5 mmol, 2.0 g | COC(C(CCCCl)C1=NC=C(C=C1)Br)=O | C11H13BrClNO2
reactant | LiOH.H2O | 26 mmol, 1.092 g | O[Li].O
reactant | HCl | 2N | Cl | ClH
solvent | THF MeOH | 30 mL | C1CCOC1.CO
product | 2-(5-Bromo-pyridin-2-yl)-5-chloro-pentanoic acid | BrC=1C=CC(=NC1)C(C(=O)O)CCCCl | C10H11BrClNO2
